US05436265
Step 2: 1-(2,4,6-Trichlorobenzoyl)-5-methoxy-2-methyl-3-indolyl acetic acid 2-(trimethylsilyl)ethyl ester
To 5-methoxy-2-methyl-3-indolyl acetic acid 2-(trimethylsilyl)ethyl ester (2.00 g) in THF (20.0 mL) was added HMPA (2.0 mL). To the resulting mixture at -78° C. was added a 0.5M toluene solution of KHMDS (13.8 mL). After a period of 0.5 h, 2,4,6-trichlorobenzoyl chloride (1.03 mL) was added and the mixture was stirred 0.5 h at -78° C. then 0.5 h at 0° C. An aqueous solution of NH4Cl was then added and extracted with EtOAc. After purification by flash chromatography (10% EtOAc in hexane) the title compound was obtained (2.80 g) and used as such for the next step.

reactant | 5-methoxy-2-methyl-3-indolyl acetic acid 2-(trimethylsilyl)ethyl ester | 2.00 g | C[Si](CCOC(CC1=C(NC2=CC=C(C=C12)OC)C)=O)(C)C | C17H25NO3Si
reactant | KHMDS | 13.8 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 2,4,6-trichlorobenzoyl chloride | 1.03 mL | ClC1=C(C(=O)Cl)C(=CC(=C1)Cl)Cl | C7H2Cl4O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 20.0 mL | C1CCOC1 | C4H8O
solvent | toluene | 0.5M | C1(=CC=CC=C1)C | C7H8
solvent | HMPA | 2.0 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 1-(2,4,6-Trichlorobenzoyl)-5-methoxy-2-methyl-3-indolyl acetic acid 2-(trimethylsilyl)ethyl ester | C[Si](CCOC(CC1=C(N(C2=CC=C(C=C12)OC)C(C1=C(C=C(C=C1Cl)Cl)Cl)=O)C)=O)(C)C | C24H26Cl3NO4Si
